US07622449B2
Preparation of N-(3-{4-[(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-2-(4-hydroxyphenyl)-4-oxoazetidin-1-yl]phenyl}prop-2-yn-1-yl)methanesulfonamide (Compound 6a)
To a solution of 10 mg of N-[3-(4-{(2S,3R)-2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-1-yl}phenyl)prop-2-yn-1-yl]methanesulfonamide in 0.5 mL THF was added 0.5 mL of 2N aq. HCl. The resulting mixture was stirred at room temperature for 1 hr at which time the volatiles were removed under vacuum. The residue was purified by prep. Tlc eluting with CH2Cl2/MeOH (9/1) followed by further purification by prep. Tlc eluting with CH2Cl2/MeOH (95/5) afforded the title compound. m/z (ES) 544.9 (M+Na+), 523 (MH+), 505 (M−H2O+).

reactant | N-[3-(4-{(2S,3R)-2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-1-yl}phenyl)prop-2-yn-1-yl]methanesulfonamide | 10 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)[C@H]1N(C([C@@H]1CC[C@H](O)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)C#CCNS(=O)(=O)C | C34H41FN2O5SSi
reactant | HCl | 2N, 0.5 mL | Cl | ClH
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | N-(3-{4-[(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-2-(4-hydroxyphenyl)-4-oxoazetidin-1-yl]phenyl}prop-2-yn-1-yl)methanesulfonamide | FC1=CC=C(C=C1)[C@H](CC[C@@H]1[C@H](N(C1=O)C1=CC=C(C=C1)C#CCNS(=O)(=O)C)C1=CC=C(C=C1)O)O | C28H27FN2O5S
